US04386031
(b) 8-[4-Fluoro-N-(4-methoxyphenyl)-benzamido]-caprylic acid
As described in example 1(b), the reaction is carried out with 7.4 g (18 mmol) of 8-[4-fluoro-N-(4-methoxyphenyl)-benzamido]-caprylic acid methyl ester, 1.4 g (35 mmol) of sodium hydroxide and 70 cc. of methanol. Reaction time: 10 hours, reaction temperature: 25° C. The crude product is further purified chromatographically on silicic acid gel using chloroform as eluant.

reactant | 8-[4-fluoro-N-(4-methoxyphenyl)-benzamido]-caprylic acid methyl ester | 18 mmol, 7.4 g | COC(CCCCCCCN(C(C1=CC=C(C=C1)F)=O)C1=CC=C(C=C1)OC)=O | C23H28FNO4
reactant | sodium hydroxide | 35 mmol, 1.4 g | [OH-].[Na+]
solvent | methanol | CO | CH4O
product | 8-[4-Fluoro-N-(4-methoxyphenyl)-benzamido]-caprylic acid | FC1=CC=C(C(=O)N(C2=CC=C(C=C2)OC)CCCCCCCC(=O)O)C=C1 | C22H26FNO4
